* source TP51
C_C1         0 S1  10n  
C_C2         S2 S1  10n  
R_R2         0 S2  {val}  
R_R1         E S1  {val}  
V_V4         E 0 DC 0Vdc AC 2Vac 
.PARAM  val=10k
